US04001419
A mixture of 1'-methyl-4-aminoxanthene-9-spiro-4'-piperidine (0.06 g.) and acetic anhydride (0.5 ml.) in ether (20 ml.) is stirred at room temperature for 0.5 hour. The ether solution is washed with saturated sodium carbonate solution and water, dried with MgSO4 and the ether evaporated to give a gummy residue. The residue is crystallised from hexane to give 1'-methyl-4-acetamidoxanthene-9-spiro-4'-piperidine, m.p. 176°-178° C.

reactant | 1'-methyl-4-aminoxanthene-9-spiro-4'-piperidine | 0.06 g | CN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)N | C18H20N2O
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1'-methyl-4-acetamidoxanthene-9-spiro-4'-piperidine | CN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)NC(C)=O | C20H22N2O2
